US04259336
4-Hydroxy-2-methyl-N-(2-thiazolyl)-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
25.0 gm (0.0768 mol) of methyl 4-hydroxy-2-methyl-2H-[1]benzothieno-[2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and 10.0 gm (0.12 mol) of 2-thiazolamine were refluxed for 16 hours in 300 cc of anhydrous xylene in an atmosphere of nitrogen. The released methanol was removed by means of 4 A-molecular sieve filled in a Soxhlet apparatus. After cooling and standing for several hours, the reaction product was filtered off. After recrystallization from a mixture of dimethylformamide and 1,2-dichloroethane 19.9 gm (66% of theory) of light-yellow 4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide were obtained.

reactant | methyl 4-hydroxy-2-methyl-2H-[1]benzothieno-[2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | 0.0768 mol, 25.0 gm | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)OC | C13H11NO5S2
reactant | 2-thiazolamine | 0.12 mol, 10.0 gm | S1C(=NC=C1)N | C3H4N2S
solvent | xylene | 300 cc | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Hydroxy-2-methyl-N-(2-thiazolyl)-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)NC=1SC=CN1 | C15H11N3O4S3
